US05891895
To a solution of 2-bromo-3-methoxymethoxypyridine (9.11 g) in diethyl ether (200 mL) was added, at -78° C., a 1.6M n-butyl lithium hexane solution (29 mL). The mixture was stirred for one hour at the same temperature, to which was further added a solution of 3-bromobenzaldehyde (6.0 mL) in diethyl ether (5 mL), and the mixture was stirred for one hour at the same temperature. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The extract was washed with a saturated aqueous saline solution, which was then dried (sodium sulfate) and concentrated. The concentrate was purified by means of a silica gel column (ethyl acetate--hexane) to afford 2-(3-bromo-α-hydroxybenzyl)-3-methoxymethoxypyridine (10.89 g) (compound A-1). Physical properties and spectrum data of the product are shown in Table 1 and Table 2. In substantially the same manner as above, compounds A-2 to A-4, and A-6 to A-7 shown in Table 1 were produced.

reactant | 2-bromo-3-methoxymethoxypyridine | 9.11 g | BrC1=NC=CC=C1OCOC | C7H8BrNO2
reactant | n-butyl lithium hexane | 1.6M, 29 mL | CCCCCC.C(CCC)[Li]
reactant | 3-bromobenzaldehyde | 6.0 mL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | water | O | H2O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | 2-(3-bromo-α-hydroxybenzyl)-3-methoxymethoxypyridine | 10.89 g | BrC=1C=C(C(O)C2=NC=CC=C2OCOC)C=CC1 | C14H14BrNO3
